US05135955
A. Preparation of 1-[4-(phenylmethoxy)phenyl]-1-penten-3-one
4-Benzyloxybenzaldehyde (100 g) and 43.2 g of methylethyl ketone were added to 1.2 1 of methanol and stirred at 15°-20° C. during which 125 ml of sodium hydroxide (50%) was added dropwise. Following completion of the addition of sodium hydroxide, the mixture was stirred at room temperature for about 8 hours. The resultant solid was collected and washed with water and recrystallized from acetone to yield the desired subtitled intermediate, m.p. 123°-125° C.

reactant | 4-Benzyloxybenzaldehyde | 100 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | methylethyl ketone | 43.2 g | CC(=O)CC | C4H8O
reactant | sodium hydroxide | 125 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[4-(phenylmethoxy)phenyl]-1-penten-3-one | C1(=CC=CC=C1)COC1=CC=C(C=C1)C=CC(CC)=O | C18H18O2
